US07470679B2
(S)-2-(1,4-dichloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid
(S)-Methyl 2-(1,4-dichloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate (230 mg, 0.542 mmol) was dissolved in a mixture of tetrahydrofuran (5.0 mL) and methanol (5.0 mL). Water (5.0 mL) was added to the mixture followed by lithium hydroxide hydrate (66 mg, 1.573 mmol). Reaction was warmed to 50° C. and held with stirring for 4.5 hours. Mixture was cooled to room temperature. Organic solvents were removed from the mixture by roto-vap. Residue was neutralized with 1.6 mL 1N hydrochloric acid. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 94% yield. MS (M−H)−=407.9, 409.9.

reactant | (S)-Methyl 2-(1,4-dichloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 0.542 mmol, 230 mg | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)OC)=O)CC(F)(F)F)Cl | C16H14Cl2F3N3O3
reactant | Water | 5.0 mL | O | H2O
reactant | lithium hydroxide hydrate | 1.573 mmol, 66 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 5.0 mL | CO | CH4O
product | (S)-2-(1,4-dichloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 94% yield | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CC(F)(F)F)Cl | C15H12Cl2F3N3O3
